US08026365B2
Step 2: N-(4-Cyano-piperidin-4-yl)-5-methyl-nicotinamide dihydrochloride (Intermediate A5)
A solution of 4-cyano-4-[(5-methyl-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (0.48 g, 1.39 mmol) in 4 M HCl in dioxane (7 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. Note: The product is contaminated with some primary amide (partial hydrolysis of the nitrile). MS (ISP): 245.4 [M+H]+.

reactant | 4-cyano-4-[(5-methyl-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 1.39 mmol, 0.48 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)C=1C=NC=C(C1)C)C#N | C18H24N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | N-(4-Cyano-piperidin-4-yl)-5-methyl-nicotinamide dihydrochloride | Cl.Cl.C(#N)C1(CCNCC1)NC(C1=CN=CC(=C1)C)=O | InChI=1S/C13H16N4O.2ClH/c1-10-6-11(8-16-7-10)12(18)17-13(9-14)2-4-15-5-3-13;;/h6-8,15H,2-5H2,1H3,(H,17,18);2*1H
